### ISSUE TITLE
[Correction] JSP-000301: add Lean formalization of the existing counterexample

### ISSUE THREAD

**Issue by simonJJJ** [TheJustinSunPrize/awards#25]
### Record or document

[JSP-000301 — If two consecutive positive integers are powerful, must at least one be a perfect square?](https://github.com/TheJustinSunPrize/awards/blob/main/problems/catalog-0301-0400.md#JSP-000301)

### Current text and proposed correction

The entry already records the counterexample 12167, 12168 and currently lists `Lean proof: No`.

Please review the linked Lean formalization and add it as proof evidence for the scoped yes/no question. If the statement and proof meet the repository's review requirements, please update the Lean-proof status accordingly. Pending that review, the source can be recorded as submitted evidence with verification pending.

This is a formalization of the existing counterexample, not a claim of a new mathematical discovery or first formalization priority. It does not address Erdős Problem #365's counting question or the existence of three consecutive powerful numbers. No award decision or claim-status change is requested by this issue.

### Evidence and affected records

- Proof repository: https://github.com/simonJJJ/jsp301-lean
- Immutable proof source: https://github.com/simonJJJ/jsp301-lean/blob/b945213eecc6d0ffe854924ba6d47fca2d3003fa/JSP301.lean
- Pinned commit: `b945213eecc6d0ffe854924ba6d47fca2d3003fa`
- Statement and reproducibility documentation: https://github.com/simonJJJ/jsp301-lean/blob/b945213eecc6d0ffe854924ba6d47fca2d3003fa/README.md
- Local verification log: https://github.com/simonJJJ/jsp301-lean/blob/b945213eecc6d0ffe854924ba6d47fca2d3003fa/verification.log
- Axiom-audit source: https://github.com/simonJJJ/jsp301-lean/blob/b945213eecc6d0ffe854924ba6d47fca2d3003fa/Audit.lean
- Lean: 4.19.0.
- mathlib: v4.19.0, commit `c44e0c8ee63ca166450922a373c7409c5d26b00b`.

`Powerful n` is defined as `0 < n ∧ ∀ p : ℕ, p.Prime → p ∣ n → p ^ 2 ∣ n`, using mathlib's primality and divisibility. Squareness is mathlib's `IsSquare`.

The theorem `JSP301.jsp301_false` states:

```lean
¬ (∀ n : ℕ, 0 < n → Powerful n → Powerful (n + 1) →
  IsSquare n ∨ IsSquare (n + 1))
```

The file also supplies `JSP301.counterexample` for 12167 and 12168, and `JSP301.exists_consecutive_powerful_nonsquares`.

Both `lake build` and `lake env lean Audit.lean` completed successfully. The final theorems depend only on `propext`, `Classical.choice`, and `Quot.sound`. There are no proof placeholders, custom axioms, or uses of `native_decide`.

Verification limitations: the local build used official precompiled mathlib dependencies; no full dependency rebuild, two-independent-checker verification, or confirmation of the prize's minimum safe versions is claimed. Formal statement review and eligibility assessment remain pending.

Affected records, if the evidence is accepted: the JSP-000301 detail entry and its corresponding problem-index row. Please apply any derived screening-status changes only under the maintainers' review policy.

### Relevant conflicts

This submission concerns the submitter's own AI-assisted formalization project. OpenAI Codex assisted with the proof and documentation. The local build and audit are not presented as an independent review. No recipient identity or award nomination is asserted here.

**Comment by jinkaizhang236-sketch** [comment]
## Supplementary JSP-000301 formalization and local verification evidence

**Submitting account:** [jinkaizhang236-sketch](https://github.com/jinkaizhang236-sketch). Please track the formalization and local verification materials in this comment as this account's submission, separately from the original issue author and other contributors. Mathematical discovery and any prize-recipient determination remain separate.

Submitting a self-contained Lean formalization of the counterexample already recorded in JSP-000301. This is an additional version for review in the existing correction discussion, not a new mathematical discovery or a claim of first formalization priority. Related submissions include #62, #63, #64 and #82.

**The verification results below apply specifically to the source included in this comment. They do not claim to verify the other contributors' repositories.**

### Record and requested review

[Exact catalog entry](https://github.com/TheJustinSunPrize/awards/blob/f4e7173d89dfe91022a185427d63452c8ffbf6ae/problems/catalog-0301-0400.md#JSP-000301): the mathematical status is already “Solved (disproved)”; the recorded Lean-proof and eligibility flags are “No”.

Please review this supplementary source and evidence for the scoped question: “If two consecutive positive integers are powerful, must at least one be a perfect square?” If the maintainers accept the evidence and statement correspondence, please record the formalization with attribution and update the appropriate catalog fields under the review policy. No award approval, payout entitlement, or priority is asserted.

### Statement and mathematical scope

`Powerful n := 0 < n ∧ ∀ p : ℕ, p.Prime → p ∣ n → p ^ 2 ∣ n`.

The positivity condition is included in the predicate, the quantifier ranges over all prime divisors, and primality, divisibility and `IsSquare` are mathlib's standard predicates. The explicit witness is 12167 = 23³ and 12168 = 2³ × 3² × 13². Both lie strictly between 110² and 111². `JSP000301.counterexample` supplies the witness, and `JSP000301.claim_false` negates the original universal claim.

This covers only the yes/no question recorded as JSP-000301. The separate counting question associated with Erdős #365 is not addressed. Mathematical credit remains with the known result and its existing sources.

### Reproduction and local results

- Lean `4.34.0`, release commit `293d5d0c0c3f3dded4688b3ccd6a33939ac5102b`.
- mathlib `5ed2965256430c3649e86755f9576b54eca72435`; all transitive revisions are in the included manifest.
- Local platform: macOS 26.5.2, arm64.
- `lake build`: PASS, exit 0, zero warnings/errors.
- Six theorem axiom audits: PASS; dependencies are only `propext`, `Classical.choice`, `Quot.sound`.
- `lake env leanchecker --fresh --verbose JSP301`: PASS, exit 0, imported and local declarations replayed into a fresh official-kernel environment.
- A supplementary, configuration-adapted Lean4Lean run: PASS, exit 0, all eight local declarations checked; imports were trusted for this supplementary run. Exact patch, upstream revision and reproduction instructions are included below.

The source has no proof placeholders, custom axioms, `native_decide`, or environment modifications. Ordinary `decide` is used only for the small concrete primes. This is not an axiom-free claim.

To reproduce, save the files below under the indicated filenames with UTF-8 encoding and LF line endings in one directory, install the pinned Lean toolchain using elan, then run:

```sh
lake exe cache get Mathlib/Data/Nat/Prime/Basic.lean Mathlib/Tactic/NormNum.lean
bash verify.sh
```

### Verification limits and attribution

This is local, AI-assisted work, generated and checked with assistance from OpenAI Codex. The submitting account is offering its own formalization/verification materials and has an interest in their assessment. No additional relevant public professional relationships have been provided; no recipient identity, curator signature, conflict-clearance attestation, or award nomination is asserted in this comment.

The build used precompiled dependency caches, and it was not performed in a network-disabled immutable container. The official `leanchecker` reuses the official kernel. Lean4Lean's README also notes its derivation from the C++ implementation; our additional build only changed toolchain/dependency configuration, but is not an unmodified upstream release for Lean 4.34.0. These checks are not represented as satisfying the organizers' independent-current-checker requirement. Human semantic review, any mandated isolated reproduction, independent verification, permanent archival requirements and award eligibility remain for the organizers to determine.

The complete source and reproduction configuration are provided inline for review. File hashes below identify these exact bytes; this comment is not presented as an immutable repository commit or DOI archive.

### Included file checksums (SHA-256)

```text
a8dc2c9c9e2220bc2da10ae9acbaf4dee0933c59ef3e41ba6f778e9a36c9ccc7  JSP301.lean
dfc269a2a991e731c666f9b05662c04e3ca91450ca27fabe73db7edbb5378d6f  Audit.lean
8733782dc070a99b312039cda424f601b80f3be6f6f512627da5ba25adc27632  lean-toolchain
5e2b13c867103dee22ff7a0e9e9319d41cbc75818e14deb8c3697bd1456157e1  lakefile.toml
cf5d3aeb7ae6bfb0580acc837bf70af0a6b691aa2b2e82c52eb52f6c5f5039a7  lake-manifest.json
1ccf219998d066002b00f5cf51440857acccec75c711173a27bbf29bb3412959  verify.sh
cf3366970ed3811839c941d5c214af115f6b8a5b285ca306bdd87a084c022f61  evidence/verification-run.log
a3e38ba98823eeb93dfcc15426960c2d3e7d66be81c9da1e96b604979ba2bfd0  evidence/lean4lean-local.log
fb92e750926ac7a734ad69ad2553aa51b79ab8c14804f2b81b5d56145ffb3b0c  evidence/lean4lean-compat.patch
e5da8d29a376473363eaa471fba74b2bf5256474018947d98519d718ebbf8f7b  evidence/lean4lean-reproduce.md
```

<details>
<summary>JSP301.lean</summary>

```lean
import Mathlib.Data.Nat.Prime.Basic
import Mathlib.Tactic.NormNum

/-!
# JSP-000301: consecutive powerful numbers need not include a square

A positive natural number is powerful if the square of each prime divisor
also divides it.  The witnesses are 12167 = 23^3 and
12168 = 2^3 * 3^2 * 13^2.  Both lie strictly between 110^2 and 111^2.
-/

namespace JSP000301

/-- A positive integer whose prime divisors all occur at least twice. -/
def Powerful (n : ℕ) : Prop :=
  0 < n ∧ ∀ p : ℕ, p.Prime → p ∣ n → p ^ 2 ∣ n

theorem powerful_12167 : Powerful 12167 := by
  constructor
  · norm_num
  intro p hp hdiv
  have hpow : p ∣ (23 : ℕ) ^ 3 := by
    norm_num
    exact hdiv
  have heq : p = 23 :=
    (Nat.prime_dvd_prime_iff_eq hp (by decide)).mp (hp.dvd_of_dvd_pow hpow)
  subst p
  norm_num

theorem powerful_12168 : Powerful 12168 := by
  constructor
  · norm_num
  intro p hp hdiv
  have hprod : p ∣ (2 : ℕ) ^ 3 * 3 ^ 2 * 13 ^ 2 := by
    norm_num
    exact hdiv
  rcases hp.dvd_mul.mp hprod with hsmall | h13
  · rcases hp.dvd_mul.mp hsmall with h2 | h3
    · have heq : p = 2 :=
        (Nat.prime_dvd_prime_iff_eq hp (by decide)).mp (hp.dvd_of_dvd_pow h2)
      subst p
      norm_num
    · have heq : p = 3 :=
        (Nat.prime_dvd_prime_iff_eq hp (by decide)).mp (hp.dvd_of_dvd_pow h3)
      subst p
      norm_num
  · have heq : p = 13 :=
      (Nat.prime_dvd_prime_iff_eq hp (by decide)).mp (hp.dvd_of_dvd_pow h13)
    subst p
    norm_num

/-- There is no natural-number square strictly between successive squares. -/
theorem not_isSquare_between {n a : ℕ}
    (hlo : a * a < n) (hhi : n < (a + 1) * (a + 1)) : ¬ IsSquare n := by
  rintro ⟨k, rfl⟩
  rcases le_or_gt k a with hk | hk
  · exact (not_lt_of_ge (Nat.mul_le_mul hk hk)) hlo
  · have hnext : a + 1 ≤ k := Nat.succ_le_of_lt hk
    exact (not_lt_of_ge (Nat.mul_le_mul hnext hnext)) hhi

theorem not_isSquare_12167 : ¬ IsSquare (12167 : ℕ) := by
  apply not_isSquare_between (a := 110) <;> norm_num

theorem not_isSquare_12168 : ¬ IsSquare (12168 : ℕ) := by
  apply not_isSquare_between (a := 110) <;> norm_num

/-- An explicit counterexample to the claim in JSP-000301. -/
theorem counterexample :
    ∃ n : ℕ, Powerful n ∧ Powerful (n + 1) ∧
      ¬ IsSquare n ∧ ¬ IsSquare (n + 1) := by
  exact ⟨12167, powerful_12167, powerful_12168,
    not_isSquare_12167, not_isSquare_12168⟩

/-- The universal claim that one of two consecutive powerful numbers
must be a perfect square is false. -/
theorem claim_false :
    ¬ (∀ n : ℕ, Powerful n → Powerful (n + 1) →
      IsSquare n ∨ IsSquare (n + 1)) := by
  intro h
  rcases h 12167 powerful_12167 powerful_12168 with hs | hs
  · exact not_isSquare_12167 hs
  · exact not_isSquare_12168 hs

end JSP000301
```

</details>

<details>
<summary>Audit.lean</summary>

```lean
import JSP301

#print axioms JSP000301.powerful_12167
#print axioms JSP000301.powerful_12168
#print axioms JSP000301.not_isSquare_12167
#print axioms JSP000301.not_isSquare_12168
#print axioms JSP000301.counterexample
#print axioms JSP000301.claim_false
```

</details>

<details>
<summary>lean-toolchain</summary>

```text
leanprover/lean4:v4.34.0
```

</details>

<details>
<summary>lakefile.toml</summary>

```toml
name = "jsp301"
version = "1.0.0"
defaultTargets = ["JSP301"]

[[require]]
name = "mathlib"
git = "https://github.com/leanprover-community/mathlib4.git"
rev = "5ed2965256430c3649e86755f9576b54eca72435"

[[lean_lib]]
name = "JSP301"
```

</details>

<details>
<summary>lake-manifest.json</summary>

```json
{"version": "1.2.0",
 "packagesDir": ".lake/packages",
 "packages":
 [{"url": "https://github.com/leanprover-community/mathlib4.git",
   "type": "git",
   "subDir": null,
   "scope": "",
   "rev": "5ed2965256430c3649e86755f9576b54eca72435",
   "name": "mathlib",
   "manifestFile": "lake-manifest.json",
   "inputRev": "5ed2965256430c3649e86755f9576b54eca72435",
   "inherited": false,
   "configFile": "lakefile.lean"},
  {"url": "https://github.com/leanprover-community/plausible",
   "type": "git",
   "subDir": null,
   "scope": "leanprover-community",
   "rev": "118aa17ee84656b8bd727fef7c458ee8c833385c",
   "name": "plausible",
   "manifestFile": "lake-manifest.json",
   "inputRev": "main",
   "inherited": true,
   "configFile": "lakefile.toml"},
  {"url": "https://github.com/leanprover-community/LeanSearchClient",
   "type": "git",
   "subDir": null,
   "scope": "leanprover-community",
   "rev": "ddf04cf3949fa556442341e87d47f9f6e6074707",
   "name": "LeanSearchClient",
   "manifestFile": "lake-manifest.json",
   "inputRev": "main",
   "inherited": true,
   "configFile": "lakefile.toml"},
  {"url": "https://github.com/leanprover-community/import-graph",
   "type": "git",
   "subDir": null,
   "scope": "leanprover-community",
   "rev": "e928b72544873815af278d38681b31c0293588e3",
   "name": "importGraph",
   "manifestFile": "lake-manifest.json",
   "inputRev": "main",
   "inherited": true,
   "configFile": "lakefile.toml"},
  {"url": "https://github.com/leanprover-community/ProofWidgets4",
   "type": "git",
   "subDir": null,
   "scope": "leanprover-community",
   "rev": "106ff4fafc74ef4ac99d81dbf3ab399118f497a5",
   "name": "proofwidgets",
   "manifestFile": "lake-manifest.json",
   "inputRev": "main",
   "inherited": true,
   "configFile": "lakefile.lean"},
  {"url": "https://github.com/leanprover-community/aesop",
   "type": "git",
   "subDir": null,
   "scope": "leanprover-community",
   "rev": "355695d523e41d0554926416cba2a2b3544fbbc9",
   "name": "aesop",
   "manifestFile": "lake-manifest.json",
   "inputRev": "master",
   "inherited": true,
   "configFile": "lakefile.toml"},
  {"url": "https://github.com/leanprover-community/quote4",
   "type": "git",
   "subDir": null,
   "scope": "leanprover-community",
   "rev": "6a489d9af5d0c47e5b259e2e8bcdfc1811b5a259",
   "name": "Qq",
   "manifestFile": "lake-manifest.json",
   "inputRev": "master",
   "inherited": true,
   "configFile": "lakefile.toml"},
  {"url": "https://github.com/leanprover-community/batteries",
   "type": "git",
   "subDir": null,
   "scope": "leanprover-community",
   "rev": "f2effa3d803fda822b1f97b806c47cf2adfbcbc2",
   "name": "batteries",
   "manifestFile": "lake-manifest.json",
   "inputRev": "main",
   "inherited": true,
   "configFile": "lakefile.toml"},
  {"url": "https://github.com/leanprover/lean4-cli",
   "type": "git",
   "subDir": null,
   "scope": "leanprover",
   "rev": "e92c9f15fdfacc8536f31cfb3b7ad26c3c8cd204",
   "name": "Cli",
   "manifestFile": "lake-manifest.json",
   "inputRev": "v4.34.0",
   "inherited": true,
   "configFile": "lakefile.toml"}],
 "name": "jsp301",
 "lakeDir": ".lake",
 "fixedToolchain": false}
```

</details>

<details>
<summary>verify.sh</summary>

```bash
#!/usr/bin/env bash
set -euo pipefail
cd -- "$(dirname -- "$0")"

mkdir -p evidence
lake env lean --version | tee evidence/toolchain.log
lake build 2>&1 | tee evidence/build.log
lake env lean Audit.lean 2>&1 | tee evidence/axioms.log
lake env leanchecker --fresh --verbose JSP301 2>&1 | tee evidence/kernel-replay.log

python3 - <<'PY'
from pathlib import Path
import re

expected = {
    'JSP000301.powerful_12167', 'JSP000301.powerful_12168',
    'JSP000301.not_isSquare_12167', 'JSP000301.not_isSquare_12168',
    'JSP000301.counterexample', 'JSP000301.claim_false',
}
allowed = {'propext', 'Classical.choice', 'Quot.sound'}
log = Path('evidence/axioms.log').read_text()
seen = set()
for theorem, axioms in re.findall(r"'([^']+)' depends on axioms: \[([^\]]*)\]", log):
    if theorem in expected:
        used = {x.strip() for x in axioms.split(',') if x.strip()}
        if not used <= allowed:
            raise SystemExit(f'Unexpected axioms for {theorem}: {sorted(used - allowed)}')
        seen.add(theorem)
if seen != expected:
    raise SystemExit(f'Missing axiom audit results: {sorted(expected - seen)}')
print('All six theorem axiom audits passed.')
PY

printf '%s\n' 'Local build, axiom audit, and fresh official-kernel replay passed.'
```

</details>

<details>
<summary>evidence/verification-run.log</summary>

```text
Lean (version 4.34.0, arm64-apple-darwin24.6.0, commit 293d5d0c0c3f3dded4688b3ccd6a33939ac5102b, Release)
Build completed successfully (814 jobs).
'JSP000301.powerful_12167' depends on axioms: [propext, Classical.choice, Quot.sound]
'JSP000301.powerful_12168' depends on axioms: [propext, Classical.choice, Quot.sound]
'JSP000301.not_isSquare_12167' depends on axioms: [propext, Classical.choice, Quot.sound]
'JSP000301.not_isSquare_12168' depends on axioms: [propext, Classical.choice, Quot.sound]
'JSP000301.counterexample' depends on axioms: [propext, Classical.choice, Quot.sound]
'JSP000301.claim_false' depends on axioms: [propext, Classical.choice, Quot.sound]
replaying JSP301 with --fresh
All six theorem axiom audits passed.
Local build, axiom audit, and fresh official-kernel replay passed.
```

</details>

<details>
<summary>evidence/lean4lean-local.log</summary>

```text
replaying JSP301
adding thmDecl JSP000301.not_isSquare_between
adding thmDecl JSP000301.not_isSquare_12168
adding defnDecl JSP000301.Powerful
adding thmDecl JSP000301.not_isSquare_12167
adding thmDecl JSP000301.powerful_12168
adding thmDecl JSP000301.powerful_12167
adding thmDecl JSP000301.counterexample
adding thmDecl JSP000301.claim_false
checked 8 declarations
```

</details>

<details>
<summary>evidence/lean4lean-compat.patch</summary>

```diff
diff --git a/lake-manifest.json b/lake-manifest.json
index 3679dc7..56b29e6 100644
--- a/lake-manifest.json
+++ b/lake-manifest.json
@@ -5,10 +5,10 @@
    "type": "git",
    "subDir": null,
    "scope": "",
-   "rev": "76e1c118b0700b4ceafe99532e887d6431625e1a",
+   "rev": "f2effa3d803fda822b1f97b806c47cf2adfbcbc2",
    "name": "batteries",
    "manifestFile": "lake-manifest.json",
-   "inputRev": "v4.33.0-rc2",
+   "inputRev": "f2effa3d803fda822b1f97b806c47cf2adfbcbc2",
    "inherited": false,
    "configFile": "lakefile.toml"}],
  "name": "lean4lean",
diff --git a/lakefile.toml b/lakefile.toml
index e572d41..542c1ca 100644
--- a/lakefile.toml
+++ b/lakefile.toml
@@ -4,7 +4,7 @@ defaultTargets = ["Lean4Lean", "lean4lean", "Lean4Lean.Theory", "Lean4Lean.Verif
 [[require]]
 name = "batteries"
 git = "https://github.com/leanprover-community/batteries"
-rev = "v4.33.0-rc2"
+rev = "f2effa3d803fda822b1f97b806c47cf2adfbcbc2"
 
 [[lean_lib]]
 name = "Lean4Lean"
diff --git a/lean-toolchain b/lean-toolchain
index c084c7f..12359f9 100644
--- a/lean-toolchain
+++ b/lean-toolchain
@@ -1 +1 @@
-leanprover/lean4:v4.33.0-rc2
+leanprover/lean4:v4.34.0
```

</details>

<details>
<summary>evidence/lean4lean-reproduce.md</summary>

````markdown
# Supplemental Lean4Lean replay

The additional checker passed on the `JSP301` module: **exit status 0; 8 declarations checked**. The recorded run took 47.774 seconds. See `lean4lean-local.log` in this directory.

## Exact versions and adaptation

- Upstream: <https://github.com/digama0/lean4lean>
- Upstream commit: `8223d223ed98661882e95d9d6a7126df7097cd76`
- Lean: `4.34.0`, commit `293d5d0c0c3f3dded4688b3ccd6a33939ac5102b`
- Batteries: `f2effa3d803fda822b1f97b806c47cf2adfbcbc2`
- Applied patch: `lean4lean-compat.patch` in this directory.

The upstream revision pins Lean 4.33.0-rc2. Its unmodified build failed under Lean 4.34.0 in the old Batteries dependency. The supplied compatibility patch changes only `lean-toolchain`, the Batteries pin in `lakefile.toml`, and the generated `lake-manifest.json`. **No checker implementation source was edited.** This is a locally adapted build, not an upstream release claiming Lean 4.34.0 support.

The locally tested macOS arm64 executable has SHA-256 `3450b1460d7f45bf7b8983fbf382748bd1eec0dd7f050ba706db562b2c0c8337` and size 182,423,360 bytes. Binary hashes may differ on other platforms or build environments.

## Reproduction

Install Lean 4.34.0 with Lake, and begin in this proof project's root directory, where `JSP301.lean`, `lakefile.toml`, and `evidence/` are present. The commands below use the project's pinned toolchain via the normal `lean`/`lake` installation. The recorded local invocation used the same version from an unpacked release. Machine-specific local paths are omitted from this public submission.

```sh
PROOF_DIR="$PWD"
CHECKER_DIR="$(mktemp -d "${TMPDIR:-/tmp}/jsp301-lean4lean.XXXXXX")"
git clone https://github.com/digama0/lean4lean.git "$CHECKER_DIR"
git -C "$CHECKER_DIR" checkout --detach 8223d223ed98661882e95d9d6a7126df7097cd76
git -C "$CHECKER_DIR" apply "$PROOF_DIR/evidence/lean4lean-compat.patch"
cd "$CHECKER_DIR"
lake env lean --version
LEAN_NUM_THREADS=2 lake build lean4lean
cd "$PROOF_DIR"
lake build JSP301
LEAN_NUM_THREADS=2 lake env "$CHECKER_DIR/.lake/build/bin/lean4lean" --verbose JSP301
```

Expected final line: `checked 8 declarations`. Expected process exit status: `0`.

## Scope and interpretation

This run used **local-module replay**: it rechecked the eight declarations defined in `JSP301`, including both final theorems, while trusting imported declarations. It did not use `--fresh` and did not independently rebuild or recheck the full imported environment. This supplemental result must be read alongside the separate Lean compiler, axiom audit, and kernel-replay evidence.

The upstream README states that Lean4Lean derives directly from Lean's C++ kernel and is not really an independent implementation. Therefore this additional check must not be presented as fulfillment of the prize's independent-checker requirement. Neither this check nor the local proof build constitutes official prize verification, an award decision, or a right to payment.
````

</details>

**Comment by kouki777** [comment]
## Supplementary JSP-000301 evidence: a kernel-checked least counterexample

**Submitting account: [kouki777](https://github.com/kouki777).** This is supplementary formalization and verification evidence for the existing discussion, with an explicit minimality certificate.

[Download the complete source and verification package](https://github.com/user-attachments/files/32301294/jsp-000301-proof-package.zip)

Archive: **24,359 bytes**. SHA-256: 
`3bfe6b0be146a6c81091a726b1a6405be27ee7139b77270707de278e3066ed9f`.

### Result and scope

The package proves the catalog's yes/no assertion false using the already-known pair **12167 = 23³** and **12168 = 2³ × 3² × 13²**. It also proves that **12167 is the least possible starting value** of two consecutive powerful natural numbers neither of which is a square.

Definitions in namespace `JSP301`:

`Prime p := 2 ≤ p ∧ ∀ d : Nat, d ∣ p → d = 1 ∨ d = p`.

`Powerful n := ∀ p : Nat, Prime p → p ∣ n → p*p ∣ n`.

`IsSquare n := ∃ k : Nat, n = k*k`.

Positivity is explicit in the original-question and existential-counterexample statements. The bounded prime checker is proved equivalent to the ordinary unbounded definition. The divisor bound follows from positivity and divisibility; it is not an assumption.

The headline theorems are:

```lean
counterexample :
  ∃ n : Nat, 0 < n ∧ Powerful n ∧ Powerful (n + 1) ∧
    ¬ IsSquare n ∧ ¬ IsSquare (n + 1)

original_question_is_false :
  ¬ ∀ n : Nat, 0 < n → Powerful n → Powerful (n + 1) →
    IsSquare n ∨ IsSquare (n + 1)

minimal_counterexample {n : Nat}
  (ha : Powerful n) (hb : Powerful (n + 1))
  (hc : ¬ IsSquare n) (hd : ¬ IsSquare (n + 1)) :
  12167 ≤ n
```

For every starting value from 0 to 12166, an explicit certificate supplies either a square among the pair or a prime divisor whose square does not divide one member. A general soundness theorem validates this certificate format. All **12,167 rows** are checked in blocks of at most 100, and a binary case split proves complete coverage. The generator is not trusted: an incorrect row makes the Lean check fail.

### Reproduction and actual local verification

The archive contains the full expanded Lean sources, deterministic PowerShell generator, README, per-file SHA-256 manifest, pinned toolchain, reproduction script and actual verification log.

Use official **Lean 4.19.0**, release commit `6caaee842e94`, with its bundled Std library. No mathlib or other Lean package is required. Extract the archive, then run in PowerShell:

```powershell
./verify.ps1 -LeanExecutable /absolute/path/to/lean.exe
```

Optionally run `./generate-certificate.ps1` first to regenerate Certificate.lean and Minimality.lean. Regeneration was checked to produce identical hashes.

Actual results on Windows x86_64:

- All five Lean modules compiled successfully.
- The complete verification script passed, exit 0.
- Counterexample and negation of the original question: axioms `[propext, Quot.sound]`.
- Minimality theorem: axioms `[propext, Classical.choice, Quot.sound]`.
- Official Lean `-t 0` imported-declaration replay passed, exit 0.
- No proof placeholders, custom axioms, native_decide, unsafe code or external proof oracle.

### Attribution and requested review

The mathematical counterexample is historical and already recorded in [JSP-000301](https://github.com/TheJustinSunPrize/awards/blob/f4e7173d89dfe91022a185427d63452c8ffbf6ae/problems/catalog-0301-0400.md#JSP-000301). Existing contributions include this issue, #103 and #109; all prior attribution remains with their respective contributors. **No mathematical discovery, first formalization, or novelty/priority for the minimality fact is claimed.** Please assess whether the explicit minimality certificate is useful supplementary evidence.

This is the submitting account's own AI-assisted work, prepared with OpenAI Codex, not an independent review. The replay uses the same official kernel implementation, not a second independent checker; the local run was not in an isolated container. A GitHub attachment is not represented as a permanent scholarly archive.

This does not address the separate asymptotic counting question in Erdős #365 or three consecutive powerful numbers. No recipient identity, nomination, catalog eligibility transition, award decision or payment is requested or asserted. The submitter has an interest in assessment of this contribution; additional personal or professional conflicts have not been independently assessed.

**Comment by h4rk8s** [comment]
## Supplementary JSP-000301 reproduction and statement-alignment evidence

Submitting account: **h4rk8s**. I am adding a reproducible proof package to this existing correction discussion, following the contribution guide's request to avoid duplicate issues.

**Scope:** a separately prepared Lean formalization of the historical pair **12167, 12168**, written after reviewing prior public submissions. This is not a new mathematical discovery, a first-formalization claim, or a claim of priority over earlier work. It does not address Erdős #365's separate counting question.

### Immutable source and reproduction

- Repository: https://github.com/h4rk8s/jsp301-core-replay
- Commit: `a55f8485e1b31e6ad4377ae7e0eea10f80873cc6`
- [Complete proof source](https://github.com/h4rk8s/jsp301-core-replay/blob/a55f8485e1b31e6ad4377ae7e0eea10f80873cc6/JSP301.lean)
- [Definitions, statement correspondence, provenance and limits](https://github.com/h4rk8s/jsp301-core-replay/blob/a55f8485e1b31e6ad4377ae7e0eea10f80873cc6/README.md)
- [Axiom/type audit source](https://github.com/h4rk8s/jsp301-core-replay/blob/a55f8485e1b31e6ad4377ae7e0eea10f80873cc6/Audit.lean)
- [Reproduction script](https://github.com/h4rk8s/jsp301-core-replay/blob/a55f8485e1b31e6ad4377ae7e0eea10f80873cc6/verify.py)
- [Actual verification log](https://github.com/h4rk8s/jsp301-core-replay/blob/a55f8485e1b31e6ad4377ae7e0eea10f80873cc6/evidence/verification.log) and [machine-readable checks and SHA-256 hashes](https://github.com/h4rk8s/jsp301-core-replay/blob/a55f8485e1b31e6ad4377ae7e0eea10f80873cc6/evidence/verification.json)
- Lean **4.34.0**, release commit `293d5d0c0c3f3dded4688b3ccd6a33939ac5102b`; only bundled Std, no third-party Lean packages.

With that toolchain on PATH, run `LEAN_NUM_THREADS=2 python3 verify.py` from the repository root.

### Exact semantics

```lean
Prime p := 2 ≤ p ∧ ∀ d : Nat, d ∣ p → d = 1 ∨ d = p
Powerful n := 0 < n ∧ ∀ p : Nat, Prime p → p ∣ n → p ^ 2 ∣ n
Square n := ∃ k : Nat, k ^ 2 = n
```

These are explicit elementary definitions over Lean's naturals. This package does not use Mathlib's `Nat.Prime` or claim a checked equivalence with that library's predicate.

The closed main theorems are:

```lean
counterexample :
  ∃ n : Nat, 0 < n ∧ Powerful n ∧ Powerful (n + 1) ∧
    ¬ Square n ∧ ¬ Square (n + 1)

original_question_is_false :
  ¬ (∀ n : Nat, 0 < n → Powerful n → Powerful (n + 1) →
    Square n ∨ Square (n + 1))
```

The Boolean certificate examines all potential divisors through `n`. A proved `allBelow_sound` induction and `Nat.le_of_dvd` lift it to the unbounded prime-divisor condition. At each divisor, it establishes square divisibility or a proper divisor contradicting primality; it does not assume a hand-picked prime list is complete. Both concrete certificates use `decide +kernel`. Nonsquareness excludes all natural roots using the interval between 110² and 111².

### Actual verification

On macOS arm64:

- Clean `lake build`: **PASS**, exit 0 (about 2.5 seconds).
- Printed definitions and main theorem types: match the scoped catalog question, without hidden theorem parameters.
- Recursive axiom audit: both main theorems depend only on **`[propext, Quot.sound]`**; the two concrete certificate theorems use `[propext]`.
- `lake env leanchecker --fresh --verbose JSP301`: **PASS**, exit 0 (about 72 seconds); local and imported declarations replayed into a fresh official-kernel environment.
- Negative control: requesting the certificate for **12166** was rejected by the kernel; a separate check successfully proved that certificate false.
- No proof placeholders, custom mathematical axioms, native evaluation trust additions, or unsafe declarations in the submitted proof source. This is not an axiom-free claim.

These are contributor-run checks and collaborative source review, not an authorized independent referee attestation. The replay uses the **same official kernel implementation**, not a second independent checker. Official prebuilt Lean/Std artifacts were used, without an isolated container or a compiler source rebuild. GitHub hosting is not presented as a permanent scholarly archive.

### Prior work and requested handling

Mathematical credit remains with the historical counterexample and the catalog's cited literature. Earlier evidence includes this thread, #62, #63, #64 and #109, the least-counterexample supplement here, and the infinite-family submission #412. This package does not supersede those contributions or assert that a catalog flag creates an unclaimed priority opportunity.

Please consider whether this replay and explicit statement-alignment material is useful supplementary evidence. No recipient nomination, eligibility transition, first-formalizer allocation, award decision or payment is requested or asserted. It may remain an unawarded reproduction if it adds no useful evidence beyond existing packages.

I have an interest in assessment of my submitted work. Preparation methods and source licensing are documented in the README; no independent conflict-clearance attestation is made.

**Comment by GordonLtron** [comment]
❌ Rejected: Invalid Issue Scope & Non-Compliant Evidence Submission

This submission and its comment thread have been flagged, rejected, and closed due to improper use of the issue tracker, violation of source code delivery rules, and unverified off-chain identity credentials.

Issue Reference: [Correction] JSP-000301: add Lean formalization of the existing counterexample #25
Submitter: @simonJJJ
Target Repository: https://github.com/simonJJJ/jsp301-lean (Commit: `b945213eecc6d0ffe854924ba6d47fca2d3003fa`)

Violation & Audit Findings:
1. Misuse of Correction Issue Template: Requesting a problem bank status change (`Lean proof: No` -> `Yes`) via a `[Correction]` issue is invalid. Pursuant to repository contribution guidelines (PR #646 / Framework §2.1), catalog status updates must be executed via a catalog Pull Request updating only the specific catalog text lines with pinned repository references.
2. Prohibited Inline Code & Zip Attachment Uploads: Commenters (e.g., @jinkaizhang236-sketch, @kouki777) pasting raw Lean source code, logs, hashes, or `.zip` archives directly into issue comments violates Award Repository Framework §2.3 and Award Specification §6.6. All formalization evidence must reside in a dedicated, public GitHub repository pinned to an exact, immutable Git commit hash.
3. Missing Off-Chain Identity Verification: Submitter @simonJJJ and associated commenters have failed to complete mandatory off-chain email authentication to thejustinsunprize@hejustinsun.com per Official Participation Guidelines (§2–§3).
4. Unverified Kernel Sandbox Replay: The pinned codebase (`b945213e...`) has not undergone the mandatory 5-step formal kernel verification procedure (§6.7), including `#print axioms` verification for zero `sorryAx` and independent sandboxed execution replay via the Lean FRO comparator.
5. Redundant AI Farming: JSP-000301 represents a trivial, classical 1970 counterexample (12167 = 23³, 12168 = 2³ × 3² × 13²). Over a dozen duplicate issues (#62, #63, #64, #82, #156, #266, #407, #543, #869, #1029) have been opened by AI-assisted accounts trying to claim prize allocations without submitting proper PRs or passing formal verification steps.

Policy Enforcement: Per The Justin Sun Prize governance framework (§2.1–§2.3 & §6.7), correction issues opened as proxy formalization submissions or containing raw pasted code blocks are invalid and will be closed immediately to prevent issue tracker clutter.

Action Required for Re-submission:
- Formalization claims must be filed via an official Award Claim issue (`claim-award.yml`) accompanied by a catalog Pull Request.
- Code must reside in a public GitHub repository pinned to an exact commit hash that passes automated CI and Lean FRO comparator sandbox replay.
- Complete mandatory off-chain email authentication to thejustinsunprize@hejustinsun.com.

Status: CLOSED (Invalid Issue Scope / Non-Compliant Code Delivery)
